US07759363B2
a. Preparation of 2-amino-3-(2,2-dimethylpropionylamino)benzoic acid methyl ester
To a solution of 2,3-diaminobenzoic acid methyl ester (2.3 g, 13.8 mmol) in pyridine (40 mL) at room temperature was added 2,2-dimethylpropionyl chloride (1.7 g, 14.0 mmol). The solution was stirred at for 16 h, evaporated, and the residue partitioned between ethyl acetate (100 mL) and 1M aqueous hydrochloric acid (100 mL). The organic phase was separated, washed with 1M aqueous hydrochloric acid (100 mL), dried over sodium sulfate and evaporated to afford the title compound as a dark oil (2.7 g, 10.8 mmol, 78%) which was used without further purification. (m/z): [M+H]+ calcd for C13H18N2O3 251.14; found 250.8

reactant | 2,3-diaminobenzoic acid methyl ester | 13.8 mmol, 2.3 g | COC(C1=C(C(=CC=C1)N)N)=O | C8H10N2O2
reactant | 2,2-dimethylpropionyl chloride | 14.0 mmol, 1.7 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 2-amino-3-(2,2-dimethylpropionylamino)benzoic acid methyl ester | 10.8 mmol, 2.7 g, 78% | COC(C1=C(C(=CC=C1)NC(C(C)(C)C)=O)N)=O | C13H18N2O3
